US04013708
Following an analogous procedure to that described in Examples 1 and 2, m-cyclohexylphenol and 4-bromobutyric acid ethyl ester give 4-(m-cyclohexylphenoxy)-butyric acid of melting point 83° -84° C (from hexane).

reactant | m-cyclohexylphenol | C1(CCCCC1)C=1C=C(C=CC1)O | C12H16O
reactant | 4-bromobutyric acid ethyl ester | C(C)OC(CCCBr)=O | C6H11BrO2
solvent | hexane | CCCCCC | C6H14
product | 4-(m-cyclohexylphenoxy)-butyric acid | C1(CCCCC1)C=1C=C(OCCCC(=O)O)C=CC1 | C16H22O3
